US09376442B2
N-(1-Acetylpiperidin-4-yl)-4-[2-(cyclopropylmethoxy)-5-methylphenyl]-2,6-dimethyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide
Starting from 4-[2-(cyclopropylmethoxy)-5-methylphenyl]-2,6-dimethyl-N-(piperidin-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride (example D.f57) and commercially available acetyl chloride the title compound is obtained as colorless solid.

reactant | 4-[2-(cyclopropylmethoxy)-5-methylphenyl]-2,6-dimethyl-N-(piperidin-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride | Cl.C1(CC1)COC1=C(C=C(C=C1)C)C=1C2=C(N=C(N1)C)C(=C(N2)C)C(=O)NC2CCNCC2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-(1-Acetylpiperidin-4-yl)-4-[2-(cyclopropylmethoxy)-5-methylphenyl]-2,6-dimethyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | C(C)(=O)N1CCC(CC1)NC(=O)C1=C(NC2=C1N=C(N=C2C2=C(C=CC(=C2)C)OCC2CC2)C)C | C27H33N5O3
